US07026316B2
317 mg (1 mmol) of trans-(2S)-[(tert-butoxycarbonyl)amino](4-azidocyclohexyl)ethanoate was reduced using an identical procedure to that described in Example 1, Step C to yield 290 mg of trans-(2S)-[(tert-butoxycarbonyl)amino](4-aminocyclohexyl)ethanoate. To a solution of 30 mg (0.1 mmol) of trans-(2S)-[(tert-butoxycarbonyl)amino](4-aminocyclohexyl)ethanoate in 1 mL of methylene chloride at 0° C. was added 0.018 mL (0.125 mmol) of hexyl isocyanate and 0.044 mL (0.25 mmol) of diisopropylethylamine (DIEA). The mixture was stirred at ambient temperature for 16 h, concentrated in vacuo, and diluted with ethyl acetate. The organic phase was washed with saturated aqueous sodium bicarbonate solution, brine, dried over magnesium sulfate and the solvent removed in vacuo to yield methyl trans-(2S)-[(tert-butoxycarbonyl)amino](4-{[(hexylamino)carbonyl]amino}cyclohexyl)-ethanoate which was used without further purification. To this material, dissolved in 1 mL of THF, was added 21 mg (0.5 mmol) of lithium hydroxide in 1 mL of water and the reaction was stirred for 16 h and concentrated in vacuo. The aqueous solution was acidified with 2N hydrochloric acid and extracted three times with ethyl acetate. The combined organic phase was washed with brine, dried over magnesium sulfate, and concentrated in vacuo to give the carboxylic acid which was dissolved in 1 mL of dimethylformamide (DMF). To this was added 0.008 mL (0.1 mmol) of thiazolidine, 23 mg (0.12 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide (EDC), 21 mg (0.15 mmol) of 1-hydroxybenzotriazole hydrate (HOBT), and 0.042 mL (0.25 mmol) of diisopropylethylamine (DIEA). The mixture was stirred for 16 h and diluted with ethyl acetate. The organic phase was washed with water, saturated aqueous sodium bicarbonate solution, water, brine, dried over magnesium sulfate and the solvent removed in vacuo to yield 53 mg The product was deprotected as described in Example 1, Step D, to give 22 mg of the title compound. 1H NMR (400 MHz, CD3OD) δ 4.70–4.66 (m, 0.45H), 4.61–4.57 (m, 1H), 4.5–4.46 (m, 0.55H), 3.93–3.86 (m, 0.55H), 3.83–3.71 (m, 1.45H), 3.46 (d, 0.45H, J=7 Hz), 3.42–3.35 (m, 1.55H), 3.16–3.02 (m, 4H), 1.98–1.90 (m, 3H), 1.64–1.58 (m, 1H), 1.56–1.39 (m, 3H), 1.39–1.23 (m, 7H), 1.23–1.06 (m, 3H), 0.95–0.87 (m, 3H).

reactant | trans-(2S)-[(tert-butoxycarbonyl)amino](4-aminocyclohexyl)ethanoate | 0.1 mmol, 30 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)[O-])[C@@H]1CC[C@H](CC1)N
reactant | hexyl isocyanate | 0.125 mmol, 0.018 mL | C(CCCCC)N=C=O | C7H13NO
reactant | diisopropylethylamine | 0.25 mmol, 0.044 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | methyl trans-(2S)-[(tert-butoxycarbonyl)amino](4-{[(hexylamino)carbonyl]amino}cyclohexyl)-ethanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)[C@@H]1CC[C@H](CC1)NC(=O)NCCCCCC | C21H39N3O5
